US06441219B1
Preparation of Ethyl 2-Hydroxy-6-methylbenzoate
A stirred mixture of crotonaldehyde (21.0 g, 0.30 mol) and anhydrous sodium acetate (25.0 g, 0.30 mol) in glacial acetic acid is heated to reflux temperature under N2, treated dropwise with ethyl chloroacetoacetate (41.1 g, 95%, 0.25 mol) over a 2.25 hr. period, heated at reflux temperature for 16 hr., cooled to room temperature and concentrated in vacuo to give a residue. The residue is partitioned between ethyl acetate and water. The organic phase is diluted with hexanes, washed sequentially with water and aqueous NaHCO3 and concentrated in vacuo to give the title product as an oil, 41.0 g, 71.4% purity (65% yield), characterized by NMR analysis.

reactant | crotonaldehyde | 0.30 mol, 21.0 g | C(\C=C\C)=O | C4H6O
reactant | sodium acetate | 0.30 mol, 25.0 g | C(C)(=O)[O-].[Na+]
reactant | ethyl chloroacetoacetate | 0.25 mol, 41.1 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 2-Hydroxy-6-methylbenzoate | 65% yield | OC1=C(C(=O)OCC)C(=CC=C1)C | C10H12O3
